US03933838
Ethyl (2-acetylamino-4-p-chlorophenyl-thiazol-5-yl)acetate.
A mixture of 13.4 grams of ethyl (2amino-4-p-chlorophenyl-thiazol-5-yl)acetate and 10.2 grams of acetic anhydride in 50 c.c. of anhydrous pyridine is refluxed for 1/2 an hour. The solution is poured on ice. The precipitated solid is filtered off, washed several times with H2O, and recrystallised from 80% alcohol, m.p. 187°-88°C.

reactant | ethyl (2amino-4-p-chlorophenyl-thiazol-5-yl)acetate | 13.4 grams | NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C13H13ClN2O2S
reactant | acetic anhydride | 10.2 grams | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Ethyl (2-acetylamino-4-p-chlorophenyl-thiazol-5-yl)acetate | C(C)(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C15H15ClN2O3S
